US05137904
3-(phenylmethyl)-5-[[(phenylmethyl)thio]methyl]-2-thioxo-4-imidazolidinone.
When 2 g of S-benzylcysteine (0.0095 mole), 0.41 g of sodium hydroxide (0.0104 mole) and 1.55 g of benzylisothiocyanate (0.0104 mole) was treated according to the procedure for the preparation of the compound of Example 2, 0.289 g of pure title compound was obtained by crystallization from isopropyl alcohol: 1H NNR was consistent with the assigned structure for the thiohydantoin.

reactant | S-benzylcysteine | 0.0095 mole, 2 g | C(C1=CC=CC=C1)SC[C@H](N)C(=O)O | C10H13NO2S
reactant | sodium hydroxide | 0.0104 mole, 0.41 g | [OH-].[Na+]
reactant | benzylisothiocyanate | 0.0104 mole, 1.55 g | C(C1=CC=CC=C1)N=C=S | C8H7NS
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 3-(phenylmethyl)-5-[[(phenylmethyl)thio]methyl]-2-thioxo-4-imidazolidinone | 0.289 g | C1(=CC=CC=C1)CN1C(NC(C1=O)CSCC1=CC=CC=C1)=S | C18H18N2OS2
